### PR TITLE
[Merged by Bors] - feat(Data/Int/Defs): Basic divisibility lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
Those lemmas already exist for `Nat`. Also rename `Nat.dvd_div_iff` to `Nat.dvd_div_iff_mul_dvd`.

From LeanCamCombi

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Int/Defs.lean [hunk 1]
```diff
@@ -589,6 +589,42 @@ lemma emod_two_eq_zero_or_one (n : ℤ) : n % 2 = 0 ∨ n % 2 = 1 :=
...
+  ⟨d, by simpa [Int.mul_comm, Int.mul_left_comm] using Int.eq_mul_of_ediv_eq_left hcb hd⟩
+
+lemma dvd_div_of_mul_dvd (h : a * b ∣ c) : b ∣ c / a := by
+  obtain rfl | ha := eq_or_ne a 0
+  · simp
+  · obtain ⟨d, rfl⟩ := h
+    simp [Int.mul_assoc, ha]
+#align int.dvd_div_of_mul_dvd Int.dvd_div_of_mul_dvd
+
+-- TODO: Rename `Nat.dvd_div_iff` to `Nat.dvd_div_iff_mul_dvd`
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Int/Defs.lean:624]:
```suggestion
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Lgtm, except for the todo comment that's already addressed. Maintainer delegate

**Comment by YaelDillies** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
